US05215972
A solution of 3.86 g of cholesterol and 0.85 ml of L-(+)-lactic acid (90% in water) in 80 ml of toluene is boiled for 1 hour. The water is separated, the cooled reaction mixture is treated with 0.3 g of p-toluene-sulphonic acid and boiled for a further 4 hours. The reaction mixture is treated with 30 ml of water and extracted with ether. The organic phase is dried over sodium sulphate and concentrated. The residue is purified on silica gel, with petroleum ether/ether 4:1 used as the elution agent. There are obtained 1.5 g of cholest-5-en-3β-yl (S)-2-hydroxypropionate, m.p. 120°-122° C.

reactant | cholesterol | 3.86 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | L-(+)-lactic acid | 0.85 ml | C([C@@H](O)C)(=O)O | C3H6O3
reactant | p-toluene-sulphonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 30 ml | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | cholest-5-en-3β-yl (S)-2-hydroxypropionate | 1.5 g | O[C@H](C(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C30H50O3
